US07635715B2
Step F: Preparation of N-((6-Chloro-1-(4-chlorophenyl)-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
A solution of 1,1-dimethylethyl N-((6-chloro-1-(4-chlorophenyl)-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.675 g, 1.42 mmol) in TFA (10.0 mL, 127 mmol) was stirred at 25° C. for 10 minutes. The solution was concentrated, azeotroped in DCM (2×300 mL), and dried in a vacuum oven at 60° C. to give the title compound (0.580 g). MS m/e=420 (M+H)+. Calculated for C20H15Cl2NO5 419.03.

reactant | 1,1-dimethylethyl N-((6-chloro-1-(4-chlorophenyl)-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 1.42 mmol, 0.675 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C1=CC=C(C=C1)Cl)=O)C(=O)NCC(=O)OC(C)(C)C)O | C24H23Cl2NO5
reactant | TFA | 127 mmol, 10.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6-Chloro-1-(4-chlorophenyl)-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 0.580 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C1=CC=C(C=C1)Cl)=O)C(=O)NCC(=O)O)O | C20H15Cl2NO5
